US06492356B1
a) Benzyl 4-(Methoxycarbonylmethyloxy)benzoate
4.5 g (0.02 mol) of benzyl p-hydroxybenzoate were suspended in about 60 ml of acetone together with 9.7 g (0.03 mol) of cesium carbonate and treated with 2.3 ml (0.025 mol) of ethyl bromoacetate. The mixture was then refluxed until reaction was complete. For working-up, the reaction solution was filtered through a clarifying layer and the filtrate was concentrated to dryness. The residue was taken up in ethyl acetate and the mixture was washed three times each with 10% strength citric acid solution and saturated NaCl solution. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was recrystallized from diisopropyl ether/heptane. Yield: 5.5 g.

reactant | benzyl p-hydroxybenzoate | 0.02 mol, 4.5 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | cesium carbonate | 0.03 mol, 9.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 0.025 mol, 2.3 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | about 60 ml | CC(=O)C | C3H6O
product | Benzyl 4-(Methoxycarbonylmethyloxy)benzoate | COC(=O)COC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C17H16O5
